US05744627
Ethyl 4-aminomethylsalicylate hydrochloride (0.50 g. 2.17 mmoles) was suspended in dry N,N-dimethylformamide (25 mL) and N,N-diisopropylethylamine (0.38 mL, 2.18 mmoles) was added. Once the aminesalt dissolved, chloroacetic anhydride (0.39 g, 2.25 mmoles) was added and the reaction mixture was stirred at room temperature for 4.5 hours. The reaction mixture was then diluted with ethyl acetate (100 mL), and this solution was extracted with 1N aqueous hydrochloric acid (100 mL), water (50 mL), and saturated aqueous sodium chloride (50 mL). The ethyl acetate solution was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to afford a white solid. Finally, this solid was crystallized from ethyl acetate:hexanes (8:2, 10 mL) to affored 0.13 g (22% yield) of ethyl N-chloroacetyl-4-aminomethylsalicylate (m.p. 120°-121° C.).

reactant | Ethyl 4-aminomethylsalicylate hydrochloride | 2.17 mmoles, 0.50 g | Cl.NCC=1C=C(C(C(=O)OCC)=CC1)O
reactant | N,N-diisopropylethylamine | 2.18 mmoles, 0.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloroacetic anhydride | 2.25 mmoles, 0.39 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | ethyl N-chloroacetyl-4-aminomethylsalicylate | 0.13 g, 22% yield | ClCC(=O)NCC=1C=C(C(C(=O)OCC)=CC1)O | C12H14ClNO4
